US09340546B2
A solution of 1-[3-bromo-5-(2,5-dimethylpyrrol-1-yl)-4-pyridyl]-4-methyl-piperazine (1250 mg, 3.579 mmol) in THF (35.79 mL) was cooled to −78° C. and t-BuLi (2.105 mL of 1.7 M, 3.579 mmol) was added dropwise. The mixture was stirred for 30 mins at −78° C. before DMF (261.6 mg, 277.1 μL, 3.579 mmol) was added dropwise. The mixture was stirred for 2 h at −78° C. The reaction was quenched with MeOH (5 mL) and allowed to warm to room temperature. The reaction was washed with an aqueous saturated solution of ammonium chloride (50 mL) and extracted with EtOAc (100 mL and 50 mL). The combined organics were dried (MgSO4) and evaporated to leave an orange oil. Purification by column chromatography (EtOAc to EtOAc:MeOH 20%) yielded 5-(2,5-dimethyl-1H-pyrrol-1-yl)-4-(4-methylpiperazin-1-yl)nicotinaldehyde as a pale yellow crystalline solid. MS (ES+) 299.2.

reactant | 1-[3-bromo-5-(2,5-dimethylpyrrol-1-yl)-4-pyridyl]-4-methyl-piperazine | 3.579 mmol, 1250 mg | BrC=1C=NC=C(C1N1CCN(CC1)C)N1C(=CC=C1C)C | C16H21BrN4
reactant | t-BuLi | 3.579 mmol, 1.7 M, 2.105 mL | [Li]C(C)(C)C
reactant | DMF | 3.579 mmol, 277.1 μL, 261.6 mg | CN(C)C=O | C3H7NO
solvent | THF | 35.79 mL | C1CCOC1 | C4H8O
product | 5-(2,5-dimethyl-1H-pyrrol-1-yl)-4-(4-methylpiperazin-1-yl)nicotinaldehyde | CC=1N(C(=CC1)C)C=1C=NC=C(C=O)C1N1CCN(CC1)C | C17H22N4O
